Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atenolol / atorvastatin / Medrol / Nefazodone / Phenylbutazone / 
trazodone
 
Attending: ___.
 
Chief Complaint:
___

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HPI: Mr. ___ is a R handed ___ with a history of early 
stage
dementia and ETOH abuse who presented to OSH ___ s/p fall at
~445pm. It is unclear if it was a mechanical fall down stairs or
fall from standing near stairs. He was initially responsive and
coherent but had worsening mental status changes/confusion. He
was vomiting and incontinent of urine after the fall. His son
found him ~5 minutes after the fall. He was BIBA to ___. There, his imaging demonstrated SAH L>R in the frontal
and temporal regions and SDH small frontal. He was transferred 
to
___ for further management. He had ETOH in the afternoon ETOH
at OSH 52. 

 
Past Medical History:
CAD- pt suffered MI ___ years ago; had arrythmias from that time 
until underwent ablation in ___ (?)
CHF - per pt's family, pt's EF: ___. No known 
hospitalizations for CHF exacerbation.
ICD - has had pacemaker+defibrillator for approximately ___ years. 
Per family, defibrillator activated several times, prompting 
ablation procedures. Previously, the pt had pacemaker only.
Sub-arachnoid hemorrhages - pt has a history of multiple bleeds 
___ falls. Pt underwent surgical repair at ___ in ___.
EtOH Abuse- per son/caretaker, pt drinks 1.5oz QOD. 
Left Meningioma
Double vision - pt has experienced diplopia since ___. As a 
result, he keeps his left eye shut. 
Hip replacement
Asthma

PSH:
Craniotomy at ___ ___
hematoma
L hip replacement

 
Social History:
___
Family History:
NC
younger brothers died of heart disease

 
Physical Exam:
EXAM ON ADMISSION TO NEUROSURGERY
___ 11  E:4      V:2  Motor: 5
O: BP: 151 / 74        HR:69    R  18     O2Sats 99%
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3->2 bilaterally  Conjunctival hemorrhage on 
Right
      EOMs intact
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+ Umbo hernia reducible
Extrem: Warm and well-perfused. No C/C/E.

Neuro:
Mental status: Awake non-cooperative 
Orientation: not responding to any questions
Recall: unable to assess
Language: not answering questions. Per son since the fall he has
been speaking Norweigan only. (Native from ___, speaks 
___
fluently)
Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. Visual fields unable to assess
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial symmetric.
VIII: Hearing: Pt deaf on Left
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch bilaterally

Reflexes: B Br Pa Ac
Right     + +  +  +
Left      + +  +  +

Toes upgoing bilaterally

Coordination: unable to assess

Handedness Right

Physical Exam on Discharge from Medicine Service
Vitals: 97.2 156/88 82 18 96%RA
General: Alert and Oriented x 0. NAD. Denies pain.
Skin: erythematous macules on back; large ecchymoses on upper 
extremities and hands bilaterally.
HEENT: L pupil 3mm, R pupil 2mm. Subconjunctival hemorrhage in R 
eye (lateral and medial to ___. Copious oral secretions. No 
lymphadenopathy. Dop-off tube in place, and bridled. Neck 
supple.
CV: RRR, no RMG; laterally displaced PMI.
Pulm: exam notable for upper airway sounds diffusely 
transmitted. No wheezes, rhonchi, crackles. Pt breathing 
comfortably. Occasional non-productive upper respiratory cough.
Abd: soft, non-tender, non-distended. Small umbilical hernia.
Ext: Cast on R wrist/forearm. 2+ upper and lower extremity 
pulses. No lower extremity edema.
Neuro: A&Ox0. Able to follow some commands. Able to answer 
questions, though comprehension very limited. No short-term 
memory. Pupils stably asymmetric (L>R); both reactive. 
 
Pertinent Results:
___ Chest Xray: There is a left-sided AICD with lead tips in 
the right atrium and right ventricle.  There is a feeding tube 
whose tip and side port are below the gastroesophageal junction. 
 Cardiomegaly which is stable.  There is atelectasis at the left 
base.  There are no pneumothoraces.  There is mild prominence of 
the pulmonary vascular markings without overt pulmonary edema. 

___ CT head
1.  Redemonstration of subarachnoid, subdural, and now 
intraventricular 
hematoma without significant interval change, or mass effect. 
2.  Left CP angle mass extending into the middle cranial fossa, 
most 
consistent with meningioma.  This could be better evaluated with 
MRI when 
clinically appropriate. 

___ Abdominal xray:
NG within the stomach

___ CT Head
1.  No change in the subarachnoid, subdural, and 
intraventricular hemorrhage.  No new hemorrhage is appreciated. 
2.  Enlargement of the bilateral frontal extra-axial spaces is 
most consistent with developing hygromas.  There is no 
significant mass effect from this change. 
3.  Stable hypodensity in the right cerebellum is consistent 
with an 
infarction of indeterminate age. 
4.  Stable left cerebellopontine angle meningioma 

___ 10:57 ___
IMPRESSION: infrahilar atelectasis.  There is no pulmonary 
edema or appreciable pleural effusion.  Severe cardiomegaly 
including an apical ventricular aneurysm has not changed over 
the past two days. 

___ CXR
IMPRESSION:  Stable left infrahilar atelectasis without new 
airspace opacity concerning for pneumonia. 

___: WRIST 3 VIEWS BILATERALLY
LEFT WRIST:  There are no signs for acute fractures or 
dislocations.  There are some mild degenerative changes of the 
first CMC joint. 
RIGHT WRIST:  Subtle lucency involving the ulnar aspect of the 
right distal radius which may represent a subtle non-displaced 
fracture.  Please correlate with direct pain at this site.  
There are mild degenerative changes of the first CMC and 
triscaphe joints. 

___: CT ABDOMEN W/O CONTRAST  
Reason: Pre-PEG placement  
IMPRESSION: 
1.  Isodense 1.6-cm renal lesion.  This finding can be better 
evaluated with ultrasound. 
2.  Small/trace bilateral pleural effusions, slightly greater on 
the right. 
  
___ 11:35 AM  ___ TUBE PLACEMENT    
IMPRESSION:  Successful repositioning of Dobbhoff tube into the 
post-pyloric position.  The tube is ready to use. 
  
CBC
___ 05:30AM BLOOD WBC-8.4 RBC-3.46* Hgb-11.1* Hct-35.4* 
MCV-102* MCH-32.0 MCHC-31.3 RDW-15.1 Plt ___
___ 05:34AM BLOOD WBC-8.8 RBC-3.26* Hgb-10.7* Hct-32.7* 
MCV-101* MCH-32.8* MCHC-32.7 RDW-15.3 Plt ___
___ 05:45AM BLOOD WBC-10.0 RBC-3.22* Hgb-10.8* Hct-32.5* 
MCV-101* MCH-33.4* MCHC-33.1 RDW-15.2 Plt ___
___ 05:55AM BLOOD WBC-9.8 RBC-3.16* Hgb-10.3* Hct-31.8* 
MCV-101* MCH-32.7* MCHC-32.4 RDW-15.5 Plt ___
___ 05:00AM BLOOD WBC-11.0 RBC-3.20* Hgb-10.3* Hct-32.9* 
MCV-103* MCH-32.0 MCHC-31.1 RDW-15.3 Plt ___
___ 05:00AM BLOOD WBC-12.0* RBC-3.14* Hgb-10.3* Hct-32.0* 
MCV-102* MCH-32.8* MCHC-32.2 RDW-15.6* Plt ___
___ 07:14AM BLOOD WBC-11.9* RBC-3.43* Hgb-11.2* Hct-35.5* 
MCV-104* MCH-32.6* MCHC-31.5 RDW-15.8* Plt ___
___ 07:30AM BLOOD WBC-10.2 RBC-3.37* Hgb-10.8* Hct-34.5* 
MCV-103* MCH-32.2* MCHC-31.3 RDW-15.5 Plt ___
___ 11:56AM BLOOD WBC-10.5 RBC-3.68* Hgb-11.8* Hct-38.0* 
MCV-103* MCH-31.9 MCHC-31.0 RDW-15.3 Plt ___
___ 04:43AM BLOOD WBC-12.4* RBC-3.56* Hgb-11.8* Hct-35.1* 
MCV-99* MCH-33.1* MCHC-33.6 RDW-15.5 Plt ___
___ 10:30PM BLOOD WBC-13.3* RBC-3.62* Hgb-11.8* Hct-35.8* 
MCV-99* MCH-32.7* MCHC-33.0 RDW-15.5 Plt ___
___ 05:00AM BLOOD Neuts-87.8* Lymphs-7.6* Monos-3.4 Eos-0.9 
Baso-0.2
___ 10:30PM BLOOD Neuts-93.2* Lymphs-3.3* Monos-3.2 Eos-0.1 
Baso-0.1

CHEMISTRIES
___ 05:30AM BLOOD Glucose-93 UreaN-32* Creat-1.4* Na-144 
K-5.0 Cl-110* HCO3-20* AnGap-19
___ 05:34AM BLOOD Glucose-101* UreaN-32* Creat-1.5* Na-145 
K-3.8 Cl-107 HCO3-27 AnGap-15
___ 05:45AM BLOOD Glucose-113* UreaN-31* Creat-1.3* Na-141 
K-3.9 Cl-103 HCO3-28 AnGap-14
___ 05:55AM BLOOD Glucose-130* UreaN-31* Creat-1.3* Na-143 
K-4.0 Cl-105 HCO3-30 AnGap-12
___ 05:00AM BLOOD Glucose-153* UreaN-28* Creat-1.2 Na-144 
K-3.7 Cl-106 HCO3-30 AnGap-12
___ 07:14AM BLOOD Glucose-155* UreaN-26* Creat-1.3* Na-147* 
K-4.3 Cl-110* HCO3-26 AnGap-15
___ 07:30AM BLOOD Glucose-160* UreaN-27* Creat-1.5* Na-145 
K-3.2* Cl-108 HCO3-26 AnGap-14
___ 11:56AM BLOOD Glucose-94 UreaN-20 Creat-1.2 Na-149* 
K-2.9* Cl-108 HCO3-28 AnGap-16
___ 04:43AM BLOOD Glucose-141* UreaN-20 Creat-1.5* Na-142 
K-4.1 Cl-102 HCO3-26 AnGap-18
___ 10:30PM BLOOD Glucose-147* UreaN-21* Creat-1.5* Na-144 
K-3.1* Cl-104 HCO3-26 AnGap-17

LYTES
___ 05:30AM BLOOD Phos-3.7 Mg-3.0*
___ 05:00AM BLOOD Phos-2.5* Mg-2.1
___ 07:14AM BLOOD Calcium-8.6 Phos-2.1* Mg-2.1
___ 05:40PM BLOOD Calcium-8.7 Phos-1.6* Mg-2.1
___ 07:14AM BLOOD VitB12-668

ENZYMES
___ 05:00AM BLOOD ALT-28 AST-29 AlkPhos-79 Amylase-153* 
TotBili-0.9
___ 05:00AM BLOOD TSH-2.4

TOX SCREEN
___ 10:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MICROBIOLOGY - URINE
___ 12:00PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-7.0 Leuks-NEG
___ 10:56AM URINE Blood-LG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-SM 

URINE ELECTROLYTES
___ 12:00PM UreaN-490 Creat-42 Na-91 K-37 Cl-___ M with history of prior subdural hemorrhages is admitted for 
recurrent subdural and subarachnoid hemorrhage in setting of 
mechanical fall.

#HEAD TRAUMA/INTRACRANIAL HEMORRHAGES
Mr. ___ was admitted to the Neurosurgical ICU for Q1 hour 
neurochecks after having subdural and subarachnoid hemorrhages 
in his brain after mechanial fall.  Aspirin was held due to his 
head injury.  He was started on Keppra 500mg BID for seizure 
prophylaxis given his extensive head injury.  His neuroligical 
exam fluctuated likely due to his head injury with underlying 
cognitive slowing.
On the morning of ___emonstrated stable 
bilateral SAH and contusions and he was transfered to the 
regular floor.  He was unable to tolerate PO foods or pills so 
an NG tube was placed. Speech and Swallow consult was obtained 
and he was not able to control his secretions. On ___, a repeat 
head CT was stable. At time of discharge, patient was still not 
able to control oral secretions (failed speech and swallow the 
day of discharge) and thus needed continued feeds through ___ 
gastric tube, a new ___ tube was placed post-pyloric 
per ___ on ___.

# UPPER RESPIRATORY SECRETIONS/COUGH: Pt had some upper airway 
crackles on exam. Serial CXRs were negative for pneumonia. Upper 
airway crackles likely secondary to patient's poor ability to 
control oral secretions. He was satting in high ___ on RA.

# ALTERED MENTAL STATUS: The patient had a persistently altered 
mental status and was frequently A&Ox0. He was inattentive, and 
clutched at gown and lines, and required soft restraints (mitts) 
for several days to prevent injury to self. Mental status waxed 
and waned daily; pt was occasionally able to engage in simple 
conversation answering with 1 word. These deficits were likely 
due primarily to recent head trauma, baseline deficits, and 
delirium. ___ EEG indicated mild diffuse encephalopathy. The 
patient was maintained on his home regimen of Aricept, Zoloft, 
and mirtazapine. 

# Right upper extremity FRACTURE: The pt had marked bruising of 
his upper extremities bilaterally, which prompted bilateral 
upper extremity radiographs. Pt was found to have a right radial 
fracture. Cast was placed, per orthopedics.

# THROMBOCYTOPENIA  On admission, pt had a mild 
thrombocytopenia, which resolved spontaneously during his 
hospital course.

# RENAL INCIDENTALOMA: On abdominal CT (preparation for ?PEG 
placement), the pt was noted to have an isodense 1.6-cm renal 
lesion. According to readiology, this finding can be better 
evaluated with ultrasound. We did not pursue this finding 
further, given the patient's age, active medical issues and 
comorbidities, and absence of renal/urologic symptoms. Can be 
further addressed outpatient.

# ELEVATED CREATININE/Chronic Kidney Disease: During his 
admission, the pt's serum creatine ranged from 1.3 to 1.5. 
Baseline Cr unknown. Cr stable the last week of his 
hospitalization. Pt likely has some degree of CKD.

# GOALS OF CARE: Family very actively involved in patient's 
care. Decision was made to make him DNR/DNI, although 
immediately prior to transport to the rehab facility the family 
changed him to DNI but okay to rescucitate. Family is interested 
in pursuing treatments at this time to see if his father's 
mental status can be optimized (ex: physical therapy, ___ 
gastric feeding). If he does not clinically improve over the 
next ___ weeks, family has expressed interest in discussing 
changing goals of care to focusing on comfort. These wishes are 
consistent with patient's living will.

Transitional issues:
-adrenal incidentaloma
-right wrist non displaced fracture

 
Medications on Admission:
ASA 81
Amiodarone 200
Torsemide 10
Zoloft ___
Metoprolol 25
Zetia 10
Pravastatin ___
Flomax 0.4
Advair 100/50"
Proventil inh
Remeron 15
Abmien 5
Aricept ?___
MVI
Melatonin 5
Senna 8.5
Docusate 100

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheezing 
2. Amiodarone 200 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Heparin 5000 UNIT SC TID 
5. LeVETiracetam 500 mg PO BID 
6. Torsemide 10 mg PO DAILY 
hold BP<100 
7. Sertraline 75 mg PO DAILY 
8. Pravastatin 40 mg PO DAILY 
9. Senna 1 TAB PO HS 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. Donepezil 5 mg PO HS 
12. Ezetimibe 10 mg PO DAILY 
13. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
14. Multivitamins 1 TAB PO DAILY 
15. FoLIC Acid 1 mg PO DAILY 
16. Mirtazapine 15 mg PO HS 
17. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
___)
 
Discharge Diagnosis:
Bilateral traumatic Subarachnoid hemorrhage
Brain contusions
Subdural hematoma
Delirium

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege to participate in your care.

You were admitted to the ___ 
___ you had fallen and hit your head, and were found to have 
bleeding in your brain. You were admitted to the Neurosurgery 
Service, where you were observed for several days. A tube was 
put through your nose, into your stomach, so that you could 
receive nutrients and medicines.
After several days, you were transferred to the General Medicine 
Service, because of concerns about your breathing. 

You were observed on the Medicine service for several days. You 
did not have a lung infection (pneumonia), but you did have a 
cough related to mucus and extra saliva in your throat. Because 
you were unable to control your swallowing muscles, you 
continued to be fed by a tube in your nose. 

The Medicine Service discovered a fracture ("broken bone") in 
your right wrist. This fracture probably occurred during your 
recent fall. The Orthopedic Surgery service recommended that 
your right arm be put in a cast. 

Finally, you were often confused during your time on our 
service. Often, you did not know your name or where you were. We 
hope that this will improve, along with your physical health, in 
the Rehabilitation Hospital. 

Neurosurgery provided the following recommendations:

-  You must stop drinking alcohol
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___